US04515795
3.4 g of 1,3-dimethyl-7-(6-bromohexyl)-xanthine are boiled overnight under reflux in 50 ml of glacial acetic acid to which 1 ml of acetic anhydride and 5 g of potassium acetate have been added. After evaporation of the solvent by distillation in vacuo the residue is dissolved in 50 ml of 5% sulfuric acid on the addition of 20 ml methanol. The solution is boiled under reflux for 1 hour. The mixture is extracted with chloroform. The chloroform phase is washed until it is neutral and concentrated in vacuo. 1,3-dimethyl-7-(6-hydroxyhexyl)-xanthine having a melting point of 80° C. is obtained in a yield of more than 90%.

reactant | 1,3-dimethyl-7-(6-bromohexyl)-xanthine | 3.4 g | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCCCBr)C | C13H19BrN4O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 5 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1,3-dimethyl-7-(6-hydroxyhexyl)-xanthine | yield of more than 90% | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCCCO)C | C13H20N4O3
